US04673746
To a mixture of 20 g of 2,6-difluorobenzoyl chloride and 15.5 g of 1,3-dimethoxybenzene in 200 ml of 1,2-dichloroethane, 15.28 g of aluminum chloride is added in portions with the internal temperature maintained at 0°-10° C. The mixture is stirred 1 hour and then refluxed 45 min. The reaction mixture is poured into concentrated hydrochloric acid and ice. The organic layer is separated, washed, dried over anhydrous sodium sulfate and evaporated. Trituration with hexane followed by recrystallization from 95% ethanol gives 2',6'-difluoro-2-hydroxy-4-methoxybenzophenone, mp 71°-72° C.

reactant | 2,6-difluorobenzoyl chloride | 20 g | FC1=C(C(=O)Cl)C(=CC=C1)F | C7H3ClF2O
reactant | 1,3-dimethoxybenzene | 15.5 g | COC1=CC(=CC=C1)OC | C8H10O2
reactant | aluminum chloride | 15.28 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | Cl | ClH
solvent | 1,2-dichloroethane | 200 ml | ClCCCl | C2H4Cl2
product | 2',6'-difluoro-2-hydroxy-4-methoxybenzophenone | FC1=C(C(=CC=C1)F)C(C1=C(C=C(C=C1)OC)O)=O | C14H10F2O3
